US08283353B2
4′-({4-[trans-4-(4-acetylphenoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-({4-[trans-4-(4-bromophenoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.67 g), dibutyl(1-ethoxyethenyl)pentylstannane (0.45 mL), dichlorobis(triphenylphosphine)palladium (0.038 g) and tetrahydrofuran (3 mL) was heated under reflux for 64 hr. Aqueous potassium fluoride solution was added, and the obtained mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.39 g, 62%).

reactant | 4′-({4-[trans-4-(4-bromophenoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.67 g | BrC1=CC=C(O[C@@H]2CC[C@H](CC2)N2C=3N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN3)C=C1 | C34H32BrN5O2
reactant | dibutyl(1-ethoxyethenyl)pentylstannane | 0.45 mL | C(CCC)[Sn](CCCCC)(C(=C)OCC)CCCC
reactant | potassium fluoride | [F-].[K+]
catalyst | dichlorobis(triphenylphosphine)palladium | 0.038 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4′-({4-[trans-4-(4-acetylphenoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.39 g, 62% | C(C)(=O)C1=CC=C(O[C@@H]2CC[C@H](CC2)N2C=3N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN3)C=C1 | C36H35N5O3
